Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None performed 

attach
 
Pertinent Results:
LABS
========================

___ 11:50AM BLOOD WBC-7.6 RBC-3.76* Hgb-12.0 Hct-35.8 
MCV-95 MCH-31.9 MCHC-33.5 RDW-11.6 RDWSD-40.4 Plt ___
___ 11:50AM BLOOD Neuts-74.5* ___ Monos-5.8 
Eos-0.0* Baso-0.5 Im ___ AbsNeut-5.65 AbsLymp-1.45 
AbsMono-0.44 AbsEos-0.00* AbsBaso-0.04
___ 11:50AM BLOOD Glucose-86 UreaN-11 Creat-0.6 Na-142 
K-4.2 Cl-104 HCO3-22 AnGap-16
___ 11:50AM BLOOD cTropnT-<0.01
___ 11:50AM BLOOD Calcium-9.3 Phos-3.7 Mg-1.9
___ 11:50AM BLOOD CRP-1.8

IMAGING
========================

STRESS EKG ___:
IMPRESSION: No exercise induced ectopy, anginal type symptoms or 

ischemic EKG changes. 

ECHO ___:
IMPRESSION: Normal left ventricular wall thickness, cavity size 
and regional systolic function.
Low normal global systolic function. No valvular pathology or 
pathologic flow identified. Normal
pulmonary artery systolic pressure. No prior study available for 
comparison.
 
MICROBIOLOGY
==========================
None. 

 
Brief Hospital Course:
SUMMARY
==========
Ms. ___ is a ___ year old woman with recently diagnosed SVT 
at ___ ED (___) who presents now with bothersome frequent 
episodes of chest discomfort, SOB and lightheadedness though 
without any definite palpitations or tachycardia on her home 
heart rate monitor. She had a 5-beat run of NSVT sent to us as a 
rhythm strip from ___, with an EKG demonstrating possible AVNRT. 
She experienced lightheadedness and chest discomfort so far this 
hospital stay without any correlating dysrhythmia on telemetry 
or orthostatic hypotension to explain it. She was treated with 
1L IVF bolus, metoprolol tartrate 12.5mg BID with improvement in 
symptoms. TTE this admission with LVEF 53%, no wall motion 
abnormalities, or valvular disease. Treadmill EKG negative. She 
was evaluated by electrophysiology specialists. She will be 
discharged with a 5 day course of metoprolol succinate 25mg 
DAILY with verapamil 80mg PO as needed for palpitations. She is 
scheduled for close follow up and will be discharged with Zio 
Patch event monitor for 14 days. 

TRANSITIONAL ISSUES
=========================
[] Patient should take 25mg metoprolol succinate daily for 5 
days. 
[] Patient discharged with 80mg verapamil to take AS NEEDED for 
symptoms of palpitations. 
[] She will be discharged home with ZioPatch event monitor to be 
worn for 14 days, the results of which will be discussed at her 
cardiology appointment. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem 60 mg PO TID:PRN palpitations 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*5 Tablet Refills:*0 
2.  Verapamil 80 mg PO PRN palpitations 
RX *verapamil 80 mg 1 tablet(s) by mouth Q8H: PRN Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
========================
Palpitations
AVNRT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

WHY WAS I IN THE HOSPITAL?
You were in the hospital due to palpitations. 

WHAT HAPPENED TO ME IN THE HOSPITAL?
You were monitored on telemetry which did not show a recurrence 
in the abnormal heart beats that were noted at the other 
hospital. You had a stress test which was also normal. You were 
started on a medicine to prevent abnormal heart beats which you 
will take for 5 days. You were also given fluids. 

WHAT SHOULD I DO WHEN I GO HOME?
- You will be given a monitor to wear for 14 days to monitor for 
any abnormal heart rhythms. The heart rhythm specialists will 
review this with you at your appointment. 
- You will be discharged with metoprolol to take for 5 days and 
second medication, verapamil, which you can take if you feel 
palpitations. 
- In the next five days, if you feel palpitations, you should 
attempt Valsalva maneuvers, if they persist, contact your 
medical provider. 
- After you finish the metoprolol, if the palpitations occur, 
you can take verapamil as needed. 
- If you feel severe light-headedness or chest pain, you should 
seek medical attention. 

We wish you the best and a happy new year!

Your ___ Care Team 
 
Followup Instructions:
___